US05981754
(2-Chloro-4-methoxyphenyl)acetic acid
14.3 g (0.11 mol) of 3-chloroanisole are added at 0° C. to a mixture of 9.3 ml (0.13 mol) of acetyl chloride and 350 ml of methylene chloride. The mixture is stirred for 1 hour and then, with the temperature maintained at 0° C., 24 g (0.18 mol) of aluminum chloride are added and the reaction is allowed to proceed at this temperature for 2 hours. 20 ml of 1 N hydrochloric acid solution and 20 ml of water are then added. The two phases are separated, the organic phase is washed with water, dried over sodium sulfate and filtered and the solvent is evaporated off under reduced pressure. The crude product is purified by chromatography on a silica gel column using an 8/2 cyclohexane/ethyl acetate mixture as the eluent to give the title compound.

reactant | 3-chloroanisole | 0.11 mol, 14.3 g | ClC=1C=C(C=CC1)OC | C7H7ClO
reactant | acetyl chloride | 0.13 mol, 9.3 ml | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 0.18 mol, 24 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 1 N, 20 ml | Cl | ClH
reactant | water | 20 ml | O | H2O
solvent | methylene chloride | 350 ml | C(Cl)Cl | CH2Cl2
product | (2-Chloro-4-methoxyphenyl)acetic acid | ClC1=C(C=CC(=C1)OC)CC(=O)O | C9H9ClO3
